US09447106B2
Step 1: 1′-Benzyl-2-oxo-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carbonitrile
A mixture of ethyl 1-benzyl-4-hydrazinylpiperidine-4-carboxylate hydrochloride (350 mg, 1.0 mmol), 2-(methoxy(4-phenoxyphenyl)methylene)malononitrile (276 mg, 1.0 mmol) and K2CO3 (414 mg, 3.0 mmol) in MeOH (20 mL) was heated to reflux for 16 hr. The mixture was filtered and the filtrate was concentrated to give the crude product (280 mg, 58.9%) as a yellow solid. MS (ESI, m/e) [M+1]+ 475.9.

reactant | ethyl 1-benzyl-4-hydrazinylpiperidine-4-carboxylate hydrochloride | 1.0 mmol, 350 mg | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)NN
reactant | 2-(methoxy(4-phenoxyphenyl)methylene)malononitrile | 1.0 mmol, 276 mg | COC(=C(C#N)C#N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C17H12N2O2
reactant | K2CO3 | 3.0 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
product | 1′-Benzyl-2-oxo-6-(4-phenoxyphenyl)-1,2-dihydrospiro[imidazo[1,2-b]pyrazole-3,4′-piperidine]-7-carbonitrile | 280 mg, 58.9% | C(C1=CC=CC=C1)N1CCC2(CC1)C(NC=1N2N=C(C1C#N)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C29H25N5O2
